US05096910
25.3 g (0.1 mol) of 2-carbamyl-5-nitro-7-methylbenzothiazolone-N-oxide are suspended in 150 ml of anhydrous toluene. 16.8 g (0.11 mol) of phosphorus oxychloride are added dropwise to this suspension, with stirring, at an internal temperature of 100° C. and the reaction mixture is heated under reflux for a further 4 hours and allowed to cool. 15.8 g (75 % of theory) of 5-nitro-7-methyl-benzothiazolone of melting point >250° C. are obtained.

reactant | 2-carbamyl-5-nitro-7-methylbenzothiazolone-N-oxide | 0.1 mol, 25.3 g | C(N)(=O)C=1S(C2=C([N+]1[O-])C=C(C=C2C)[N+](=O)[O-])=O | C9H7N3O5S
reactant | phosphorus oxychloride | 0.11 mol, 16.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-nitro-7-methyl-benzothiazolone | 15.8 g, 75 % | [N+](=O)([O-])C=1C=C(C2=C(N=CS2=O)C1)C | C8H6N2O3S
